US05736539
1-Benzyl-3(S)-benzyloxymethylpiperazine-2,5-dione
The title compound was prepared according to the procedure described in Example 2, Step A, except using O-benzyl Boc-L-serine (10 g, 33.8 mmol), dicyclohexylcarbodiimide in methylene chloride (0.5M) (68 mL, 34.0 mmol) and ethyl N-benzylglycinate (6.34 mL, 34.0 mmol). After deprotection with hydrogen chloride in dichloromethane (200 mL), neutralization, and recrystallization of the crude product from ethyl acetate, the title compound was obtained as a white solid (10.3 g). NMR (300 MHz, CDCl3) δ 7.58 (10H, m), 6.41 (1H, br s), 4.74 (1H, d, J=15 Hz), 4.53 (2H, AB q, J=12 Hz, Δν=20 Hz), 4.45 (1H, d, J=15 Hz), 4.22 (1H, m), 3.92 (1H, d, J=17 Hz), 3.88 (1H, dd, J=8, 10 Hz), 3.81 (1H, dd, J=6, 10 Hz), 3.75 (1H, d, J=17 Hz).

reactant | O-benzyl Boc-L-serine | 33.8 mmol, 10 g | C(C1=CC=CC=C1)OC[C@H](NC(=O)OC(C)(C)C)C(=O)O | C15H21NO5
reactant | dicyclohexylcarbodiimide | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
reactant | methylene chloride | 34.0 mmol, 0.5M, 68 mL | C(Cl)Cl | CH2Cl2
reactant | ethyl N-benzylglycinate | 34.0 mmol, 6.34 mL | C(C1=CC=CC=C1)NCC(=O)OCC | C11H15NO2
product | 1-Benzyl-3(S)-benzyloxymethylpiperazine-2,5-dione | C(C1=CC=CC=C1)N1C([C@@H](NC(C1)=O)COCC1=CC=CC=C1)=O | C19H20N2O3
